US07851634B2
5 6-Bromo-1-(3-methoxypropyl)-1H-indole
The stirred solution of 25 g of 6-bromo-1H-indole [52415-29-9] in 250 ml of DMPU is admixed at 0° C. with 11.2 g of sodium hydride (60% in mineral oil) in portions. The mixture is stirred over 1 hour and then admixed with 60.9 g of 1-chloro-3-methoxypropane and 4.71 g of tetrabutylammonium iodide (exothermic reaction). The mixture is stirred at room temperature over a further 1 hour. The resulting reaction mixture is poured onto 2 l of water (cold) and extracted with tert-butyl methyl ether (2×). The combined organic phases are washed successively with water (3×) and brine, dried over sodium sulphate and filtered, and the filtrate is concentrated by evaporation. The title compound is obtained as a slightly yellowish oil from the residue by means of flash chromatography (SiO2 60 F). Rf=0.31 (1:2 EtOAc-heptane). Rt=5.10 (gradient I).

reactant | 6-bromo-1H-indole | 25 g | BrC1=CC=C2C=CNC2=C1 | C8H6BrN
reactant | sodium hydride | 11.2 g | [H-].[Na+]
reactant | 1-chloro-3-methoxypropane | 60.9 g | ClCCCOC | C4H9ClO
reactant | water | 2 l | O | H2O
solvent | DMPU | 250 ml | CN1CCCN(C1=O)C | C6H12N2O
catalyst | tetrabutylammonium iodide | 4.71 g | [I-].C(CCC)[N+](CCCC)(CCCC)CCCC
product | 6-Bromo-1-(3-methoxypropyl)-1H-indole | BrC1=CC=C2C=CN(C2=C1)CCCOC | C12H14BrNO
